US04886809
16 Grams of p-[4-(N-methylacetylamino)-1-piperidyl]aniline was dissolved in 150 ml of toluene then to this solution was added 9.12 ml of triethylamine. Next, 11 g of β-bromopropionyl chloride in 30 ml of toluene solution was added dropwise thereto under stirring at 80° C. The reaction was continued further for 30 minutes, then the resinous materials formed in the reaction mixture were removed, then the remaining liquid was washed with water, dried and the solvent was removed by evaporation to yield 18 g of N-(β-bromopropionyl)-p-[4-(N-methylacetylamino)-1-piperidyl]aniline as in the form of an oily substance.

reactant | p-[4-(N-methylacetylamino)-1-piperidyl]aniline | CCC(=O)NC1CCN(CC1)C1=CC=C(N)C=C1 | C14H21N3O
reactant | triethylamine | 9.12 ml | C(C)N(CC)CC | C6H15N
reactant | β-bromopropionyl chloride | 11 g | BrCCC(=O)Cl | C3H4BrClO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(β-bromopropionyl)-p-[4-(N-methylacetylamino)-1-piperidyl]aniline | 18 g | BrCCC(=O)NC1=CC=C(C=C1)N1CCC(CC1)NC(CC)=O | C17H24BrN3O2
